US09376442B2
tert-Butyl (3R*,4R*)-3-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}-4-hydroxypyrrolidine-1-carboxylate
Starting from 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c1) and commercially available tert-butyl (3R*,4R*)-3-amino-4-hydroxy-pyrrolidine-1-carboxylate the title compound is obtained as pale yellow foam.

reactant | 4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C25H31N3O6Si
reactant | tert-butyl (3R*,4R*)-3-amino-4-hydroxy-pyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
product | tert-Butyl (3R*,4R*)-3-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}-4-hydroxypyrrolidine-1-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)N[C@@H]2CN(C[C@H]2O)C(=O)OC(C)(C)C | C34H47N5O8Si
